US04287195
A mixture of 4.5 parts of 2,4-dihydro-4-[4-(4-methoxyphenyl)-1-piperazinyl]-3H-1,2,4-triazol-3-one, 0.8 parts of sodium hydride dispersion 78% and 27 parts of N,N-dimethylformamide is stirred for one hour at room temperature. Then there are added 2.5 parts of dimethyl sulfate and stirring at room temperature is continued for another hour. Water is added to the reaction mixture and the product is extracted twice with dichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 3.3 parts (71%) of 2,4-dihydro-4-[4-(4-methoxyphenyl)-1-piperazinyl]-2-methyl-3H-1,2,4-triazol-3-one; mp. 178.2° C.

reactant | 2,4-dihydro-4-[4-(4-methoxyphenyl)-1-piperazinyl]-3H-1,2,4-triazol-3-one | COC1=CC=C(C=C1)N1CCN(CC1)N1C(NN=C1)=O | C13H17N5O2
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | Water | O | H2O
product | 2,4-dihydro-4-[4-(4-methoxyphenyl)-1-piperazinyl]-2-methyl-3H-1,2,4-triazol-3-one | 71% | COC1=CC=C(C=C1)N1CCN(CC1)N1C(N(N=C1)C)=O | C14H19N5O2
